US05212187
N-cyano-N'-[2-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.30 g (1.0 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine and the equimolar amount of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=601 ([M+H]+, 7), 76 (100); IR (KBr): 2169 cm-1 (C≡N). For further analysis, a portion of the compound is converted into the tartaric acid salt and recrystallised from ethanol/petroleum ether; m.p.: 106° C. (ethanol/petroleum ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine | 1.0 mmol, 0.30 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCN)C)C=C1 | C17H23FN4
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-cyano-N'-[2-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)F | C34H45FN8O
